US08957203B2
Step 3: Preparation of 1-chloro-4-(4-(2,2-difluoroethyl)piperazin-1-yl)-6-methoxyisoquinoline
To a solution of 1-chloro-6-methoxy-4-(piperazin-1-yl)isoquinoline (0.2 g, 0.720 mmol) in DMF (5 ml) was added 2,2-Difluoroethyl trifluoromethanesulfonate (0.154 g, 0.720 mmol) followed by sodium carbonate (0.114 g, 1.080 mmol). The reaction mass was stirred until judged complete. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to get crude compound. The crude compound was purified by silica gel chromatography (10% ethyl acetate in pet ether) to get desired compound (0.04 g, 15.93%) as semi solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 8.18-8.15 (d, J=12 Hz, 1H), 7.93 (s, 1H), 7.45-7.42 (d, J=12 Hz, 1H), 7.37 (s, 1H), 6.36-5.76 (tf, 1H), 3.97 (s, 3H), 3.10 (m, 4H), 2.84 (m, 4H); 19F NMR: δ ppm −118.59 (1F); MS: MS m/z 342.19 (M++1).

reactant | 1-chloro-6-methoxy-4-(piperazin-1-yl)isoquinoline | 0.720 mmol, 0.2 g | ClC1=NC=C(C2=CC(=CC=C12)OC)N1CCNCC1 | C14H16ClN3O
reactant | 2,2-Difluoroethyl trifluoromethanesulfonate | 0.720 mmol, 0.154 g | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
reactant | sodium carbonate | 1.080 mmol, 0.114 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-chloro-4-(4-(2,2-difluoroethyl)piperazin-1-yl)-6-methoxyisoquinoline | 0.04 g, 15.93% | ClC1=NC=C(C2=CC(=CC=C12)OC)N1CCN(CC1)CC(F)F | C16H18ClF2N3O
